US06476030B1
To 2,3,6-trifluorobenzoyl chloride, (29 g, 0.15 mol) in dichloromethane (200 ml) was added methanol (30 ml) dropwise at 5° C. The solution was allowed to warm to room temperature and was stirred under nitrogen for 2 h. The solvent was removed in uacuo and the residual oil was stirred with hydrazine monohydrate (19 ml, 0.40 mol) in ethanol (120 ml) at reflux for 3 h. The solvent was removed in vacuo, and the residue was partitioned between dichloromethane (400 ml) and water (200 ml). The biphasic mixture was filtered to remove insoluble material, then the aqueous layer was washed with dichloromethane (2×300 ml). The combined organic layers were dried over magnesium sulfate, and were concentrated in vacuo to yield 2,3,6-trifluorobenzoic hydrazide as a white solid (6.0 g). Data for the title compound: 1H NMR (400 MHz, CDCl3) δ 4.18 (2H, br s), 6.93 (1H, m), 7.25 (2H, m); MS (ES+) m/e 191 [MH]+.

reactant | 2,3,6-trifluorobenzoyl chloride | 0.15 mol, 29 g | FC1=C(C(=O)Cl)C(=CC=C1F)F | C7H2ClF3O
reactant | methanol | 30 ml | CO | CH4O
reactant | hydrazine monohydrate | 0.40 mol, 19 ml | O.NN
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 2,3,6-trifluorobenzoic hydrazide | 6.0 g | FC1=C(C(=O)NN)C(=CC=C1F)F | C7H5F3N2O
